US08349824B2
A suspension of 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid with 1 eq. lithium chloride (54 mg, 0.133 mmol), ethylamine hydrochloride (44 mg, 0.534 mmole), diisopropyl-ethylamine (93 ul, 0.534 mmol) and propylphosphonic anhydride (50% in ethyl acetate, 197 ul, 0.334 mmol) in tetrahydrofurane (3 ml) is stirred for 1.5 hours at 70° C. As no dissolution occurs after this time, ethylamine hydrochloride (87 mg, 1.07 mmol), diisopropylethylamine (186 ul, 1.07 mmol) and propylphosphonic anhydride (50% in ethyl acetate, 99 ul, 0.167 mmol) are added and the mixture is stirred overnight at room temperature. The white suspension is diluted with ethyl acetate, washed once with water, once with sat. aqueous sodium bicarbonate solution, once with brine, dried with magnesium sulfate and the solvent is evaporated to dryness affording N4-ethyl-1-methyl-N5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-4,5-dicarboxamide (30 mg, 57.7%) as a white solid. mp.: 253-5° C. MS: m/z=390.2 (M+H+).

reactant | 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)=O)C(=O)O | C18H14N6O3
reactant | lithium chloride | 0.133 mmol, 54 mg, 1 eq. | [Cl-].[Li+]
reactant | ethylamine hydrochloride | 0.534 mmole, 44 mg | Cl.C(C)N
reactant | diisopropyl-ethylamine | 0.534 mmol, 93 ul | C(C)(C)N(CC)C(C)C | C8H19N
reactant | propylphosphonic anhydride | 0.334 mmol, 197 ul | CCCP(=O)=O | C3H7O2P
reactant | ethylamine hydrochloride | 1.07 mmol, 87 mg | Cl.C(C)N
reactant | diisopropylethylamine | 1.07 mmol, 186 ul | C(C)(C)N(CC)C(C)C | C8H19N
reactant | propylphosphonic anhydride | 0.167 mmol, 99 ul | CCCP(=O)=O | C3H7O2P
solvent | tetrahydrofurane | 3 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N4-ethyl-1-methyl-N5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-4,5-dicarboxamide | 30 mg, 57.7% | C(C)NC(=O)C=1C=NN(C1C(=O)NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)C | C20H19N7O2
